US04409215
To a solution of benzhydryl 7-[4-bromoacetoacetamido)-3-methylthiomethyl-3-cephem-4-carboxylate (6.0 g) in tetrahydrofuran (30 ml) was added dropwise a solution of thiourea (0.85 g) and sodium bicarbonate (0.94 g) in tetrahydrofuran (30 ml) and water (24 ml) at 25° C. with stirring, and the stirring was continued at 28° to 30° C. for an hour. The reaction mixture was poured into a mixture of ethyl acetate (100 ml) and water (100 ml), followed by separating out the organic layer, which was washed twice with an aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate and then evaporated to give benzhydryl 7-[2-(2-aminothiazol-4-yl)acetamido]-3-methylthiomethyl-3-cephem-4-carboxylate (4.0 g).

reactant | benzhydryl 7-[4-bromoacetoacetamido)-3-methylthiomethyl-3-cephem-4-carboxylate | 6.0 g | BrCC(CC(=O)NC1[C@@H]2N(C(=C(CS2)CSC)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=O | C26H25BrN2O5S2
reactant | thiourea | 0.85 g | NC(=S)N | CH4N2S
reactant | sodium bicarbonate | 0.94 g | C([O-])(O)=O.[Na+]
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | water | 24 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | benzhydryl 7-[2-(2-aminothiazol-4-yl)acetamido]-3-methylthiomethyl-3-cephem-4-carboxylate | 4.0 g | NC=1SC=C(N1)CC(=O)NC1[C@@H]2N(C(=C(CS2)CSC)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C27H26N4O4S3
